US06429212B1
Synthesis of N-(2,6-diisopropylphenyl)-4-nitrophthalimide (Compound No.204 as Described Hereinafter)
0.386 g of anhydride obtained by dehydrating 3-nitrophthalic acid at a temperature of about 220° C., and 0.354 g of 2,6-diisopropylaniline were mixed, and reacted at a temperature of 180° C. for 4 hours. After the reaction was finished, the reaction mixture was dissolved in ethyl acetate, dried over anhydrous magnesium sulfate and subjected to filtration. The filtrate was concentrated and dried and solidified. Then, it was recrystallized by using a mixture of hexane and ethyl acetate, to obtain 0.320 g (yield 45%) of the specified compound.

reactant | 3-nitrophthalic acid | [N+](=O)([O-])C1=C(C(C(=O)O)=CC=C1)C(=O)O | C8H5NO6
reactant | 2,6-diisopropylaniline | 0.354 g | C(C)(C)C1=C(N)C(=CC=C1)C(C)C | C12H19N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2,6-diisopropylphenyl)-4-nitrophthalimide | 0.320 g, yield 45% | C(C)(C)C1=C(C(=CC=C1)C(C)C)N1C(C=2C(C1=O)=CC(=CC2)[N+](=O)[O-])=O | C20H20N2O4
